US07790727B2
3-Difluoromethoxy-N-(3-piperazin-1-yl-phenyl)-benzenesulfonamide Hydrochloride
The compound was prepared as described for Example 1 by reaction of 4-(5-aminophenyl)-piperazine-1-carboxylic acid tert-butyl ester with commercially available 3-difluoromethoxybenzene sulfonylchloride followed by deprotection under acidic conditions.

reactant | 4-(5-aminophenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=CC(=C1)N | C15H23N3O2
reactant | 3-difluoromethoxybenzene sulfonylchloride | FC(OC=1C=C(C=CC1)S(=O)(=O)Cl)F | C7H5ClF2O3S
product | 3-Difluoromethoxy-N-(3-piperazin-1-yl-phenyl)-benzenesulfonamide Hydrochloride | Cl.FC(OC=1C=C(C=CC1)S(=O)(=O)NC1=CC(=CC=C1)N1CCNCC1)F | InChI=1S/C17H19F2N3O3S.ClH/c18-17(19)25-15-5-2-6-16(12-15)26(23,24)21-13-3-1-4-14(11-13)22-9-7-20-8-10-22;/h1-6,11-12,17,20-21H,7-10H2;1H
